US06258824B1
6-[(6-Chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-ethoxy-phenyl)-1-isobutyl-1H-quinolin-2-one
The same procedure described in example 8, 6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-ethoxy-phenyl)-1H-quinolin-2-one (50 mg, 0.103 mmol) and 1-bromo-2-methylpropane (0.022 ml, 0.206 mmol) generated the title compound as a white solid (24 mg, 40% yield).

reactant | 6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-ethoxy-phenyl)-1H-quinolin-2-one | 0.103 mmol, 50 mg | ClC1=CC=C(C=N1)C(C=1C=C2C(=CC(NC2=CC1)=O)C1=CC(=CC=C1)OCC)(C=1N(C=NC1)C)O | C27H23ClN4O3
reactant | 1-bromo-2-methylpropane | 0.206 mmol, 0.022 ml | BrCC(C)C | C4H9Br
product | 6-[(6-Chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-ethoxy-phenyl)-1-isobutyl-1H-quinolin-2-one | 24 mg, 40% yield | ClC1=CC=C(C=N1)C(C=1C=C2C(=CC(N(C2=CC1)CC(C)C)=O)C1=CC(=CC=C1)OCC)(C=1N(C=NC1)C)O | C31H31ClN4O3
